US08404709B2
120 mg (0.805 mmol) of 3-fluoro-4-formylbenzonitrile, 80.6 mg (0.805 mmol) of 2,4-pentanedione, 72.5 mg (1.21 mmol) of acetic acid and 14 mg (0.16 mmol) of piperidine are dissolved in 8 ml of dichloromethane and heated under reflux with an inverse water trap overnight. The mixture shows complete conversion (TLC check, mobile phase: cyclohexane/ethyl acetate 5:1). The mixture is diluted with dichloromethane, washed with water and saturated sodium chloride solution and dried with sodium sulfate. The solvent is removed in a rotary evaporator. 155 mg (83.3% of theory) of 4-(2-acetyl-3-oxobut-1-en-1-yl)-3-fluorobenzonitrile are obtained and are reacted without further purification.

reactant | 3-fluoro-4-formylbenzonitrile | 0.805 mmol, 120 mg | FC=1C=C(C#N)C=CC1C=O | C8H4FNO
reactant | 2,4-pentanedione | 0.805 mmol, 80.6 mg | CC(CC(C)=O)=O | C5H8O2
reactant | acetic acid | 1.21 mmol, 72.5 mg | C(C)(=O)O | C2H4O2
reactant | piperidine | 0.16 mmol, 14 mg | N1CCCCC1 | C5H11N
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | cyclohexane ethyl acetate | C1CCCCC1.C(C)(=O)OCC
product | 4-(2-acetyl-3-oxobut-1-en-1-yl)-3-fluorobenzonitrile | 155 mg, 83.3% | C(C)(=O)C(=CC1=C(C=C(C#N)C=C1)F)C(C)=O | C13H10FNO2
